US09315521B2
To the solution of (1-methyl-1H-imidazol-5-yl)methanol (1.14 g, 10 mmol) in dioxane (50 mL), in a 250 mL round bottom flask, was added 1-chloropyrrolidine-2,5-dione (1.38 g, 10 mmol). The resulting mixture was stirred at room temperature overnight. Dioxane was removed under vacuum to provide (4-chloro-1-methyl-1H-imidazol-5-yl)methanol. The crude (4-chloro-1-methyl-1H-imidazol-5-yl)methanol was dissolved in 40 mL of chloroform, followed by addition of tribromophosphane (1.9 mL, 20 mmol). The resulting mixture was stirred at room temperature overnight. The solvent was evaporated to provide 5-(bromomethyl)-4-chloro-1-methyl-1H-imidazole.

reactant | (4-chloro-1-methyl-1H-imidazol-5-yl)methanol | ClC=1N=CN(C1CO)C | C5H7ClN2O
reactant | tribromophosphane | 20 mmol, 1.9 mL | BrP(Br)Br | Br3P
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(bromomethyl)-4-chloro-1-methyl-1H-imidazole | BrCC1=C(N=CN1C)Cl | C5H6BrClN2
